US06797726B1
In 8.1 mL of tetrahydrofuran is dissolved 1.42 g of 2-(6-fluoro-7-methoxybenzo[b]thiophen-5-yl)-acetic acid. At an ice-cooled temperature, 4.8 mL of 1 mol/L solution of borane-tetrahydrofuran complex in tetrahydrofuran is added to the solution obtained above, and the resulting mixture is stirred at ambient temperature for 2 hours. Ethyl acetate and water are added to the reaction mixture, pH is adjusted to 10 with 2 mol/L aqueous solution of sodium hydroxide, and the organic layer is separated. The organic layer is washed with saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and the solvent is distilled off under reduced pressure. Thus, 0.72 g of 2-(6-fluoro-7-methoxybenzo[b]thiophen-5-yl)-1-ethanol is obtained as an oily product.

reactant | 2-(6-fluoro-7-methoxybenzo[b]thiophen-5-yl)-acetic acid | 1.42 g | FC=1C(=CC2=C(SC=C2)C1OC)CC(=O)O | C11H9FO3S
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 8.1 mL | O1CCCC1 | C4H8O
product | 2-(6-fluoro-7-methoxybenzo[b]thiophen-5-yl)-1-ethanol | 0.72 g | FC=1C(=CC2=C(SC=C2)C1OC)CCO | C11H11FO2S
